US07569571B2
Preparation of 3-(6-Cyclopentyl-purin-9-yl)-N-cyclopropyl-4-methyl-benzamide
To a stirred solution of 3-(5-amino-4-cyano-imidazol-1-yl)-N-cyclopropyl-4-methyl-benzamide (140 mg) in THF (25 mL, dry) under nitrogen at room temperature was added cyclopentylmagnesium bromide (2.5 mL, 2 M in diethyl ether). The mixture was stirred at room temperature for 3 hr before solvent was removed. The residue was redissolved in EtOAc, washed by water, brine, dried over Na2SO4, and concentrated. The residue was redissolved in MeOH (2.0 mL), HC(OMe)3 (2.0 mL) and TsOH (catalytic amount) were added. The mixture was irritated at 120° C. using microwave for 20 min. The solvent was removed and the crude product was purified by column chromatography on silica gel eluted with EtOAc, followed by further purifictaction by preparatory HPLC to give the title compound as a white solid (41.2 mg, 23%). HPLC tR=2.07 min; MS m/z 362.31 [M+H]+.

reactant | 3-(5-amino-4-cyano-imidazol-1-yl)-N-cyclopropyl-4-methyl-benzamide | 140 mg | NC1=C(N=CN1C=1C=C(C(=O)NC2CC2)C=CC1C)C#N | C15H15N5O
reactant | cyclopentylmagnesium bromide | 2 M, 2.5 mL | C1(CCCC1)[Mg]Br
reactant | THF | 25 mL | C1CCOC1 | C4H8O
product | 3-(6-Cyclopentyl-purin-9-yl)-N-cyclopropyl-4-methyl-benzamide | 41.2 mg, 23% | C1(CCCC1)C1=C2N=CN(C2=NC=N1)C=1C=C(C(=O)NC2CC2)C=CC1C | C21H23N5O
